US05631373
2,5-Difluoro-4-nitrotoluene.
To a stirred solution of 2,5-difluorotoluene (0.544 g, 4.25 mmol, Aldrich, used as received) in conc. H2SO4 (5.0 mL) at 0° C., KNO3 (0.430 g, 4.25 mmol) was added in one portion. The resulting pale yellow solution was warmed to 28° C. and stirred at that temperature overnight. It was then poured into ice (25 g) and extracted with ethyl acetate (40 mL). The extract was dried over Na2SO4 and evaporated to afford 0.555 g (91%) of the title compound as a light red oil; 1H NMR (CDCl3): 2.369 (d, 3H, J=1.8 Hz), 7.127 (dd, 1H, J1 =8.1 Hz, J2 =6.0 Hz), 7.734 (dd, 1H, J1 =8.4 Hz, J2 =6.3 Hz).

reactant | 2,5-difluorotoluene | 4.25 mmol, 0.544 g | FC1=C(C=C(C=C1)F)C | C7H6F2
reactant | KNO3 | 4.25 mmol, 0.430 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 5.0 mL | OS(=O)(=O)O | H2O4S
product | 2,5-Difluoro-4-nitrotoluene | 0.555 g, 91% | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5F2NO2
